US04347185
A solution of 336 mg. of isopropyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]-pyrrole-1-carboxylate in 10 ml. of methanol is treated with a solution of 690 mg. of potassium carbonate in 5 ml. of water. The reaction mixture is refluxed under nitrogen atmosphere for 30 minitres, cooled, and evaporated to dryness. The residue is taken up in 10 ml. of 10% aqueous hydrochloric acid and 50 ml. of water and the resultant mixture extracted with ethyl acetate (2×50 ml.). The combined extracts are dried over magnesium sulfate and evaporated to dryness under reduced pressure. Crystallization of the residue from ethyl acetate-hexane affords 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid.

reactant | isopropyl 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]-pyrrole-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)OC(C)C)Br | C18H18BrNO3
reactant | methanol | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-benzoyl-7-bromo-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)O)Br | C15H12BrNO3
